US07829570B2
N2-{4-[7-Amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]phenyl}-1-methyl-1H-2-indolecarboxamide
The title compound was prepared from tert-butyl 4-[7-amino-1-(4-aminophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1-piperidinecarboxylate and 1-methylindole carbonyl chloride in the manner described for the preparation of N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide: 1H NMR (DMSO-d6, 400 MHz) δ 10.85 (s, 1H), 8.28 (s, 1H), 8.03 (d, 2H), 7.74 (d, 1H), 7.58 (d, 1H), 7.53 (d, 2H), 7.37 (s, 1H), 7.34 (t, 114), 7.15 (t, 1H), 6.5 (bs, 1.4H), 4.04 (s, 3H), 3.19 (m, 1H), 3.10 (m, 2H), 2.70 (m, 2H), 1.84-2.0 (m, 4H); RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 14.42 min; MS: MH+ 467.1, M−H+ 465.1

reactant | tert-butyl 4-[7-amino-1-(4-aminophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1-piperidinecarboxylate | NC=1C2=C(N=CN1)C(=NN2C2=CC=C(C=C2)N)C2CCN(CC2)C(=O)OC(C)(C)C | C21H27N7O2
reactant | 1-methylindole carbonyl chloride | CN1C(=CC2=CC=CC=C12)C(=O)Cl | C10H8ClNO
reactant | N2-{4-[7-amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCNCC2 | C27H28N8O2
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | N2-{4-[7-Amino-3-(4-piperidyl)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]phenyl}-1-methyl-1H-2-indolecarboxamide | NC=1C2=C(N=CN1)C(=NN2C2=CC=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)C2CCNCC2 | C26H26N8O
